US05969146
13.6. Ethyl [6-(phenylmethoxy)benzo[b]thien-3-yl]carbamate
A mixture comprising 2 g (8.4 mmol) of ethyl (6-hydroxybenzo[b]thien-3-yl)carbamate, 2.16 g (12.6 mmol) of benzyl bromide and 2.3 g (16.8 mmol) of potassium carbonate in 30 ml of acetonitrile is heated at reflux for 11 hours. The mixture is filtered, the solvent is evaporated under reduced pressure and the residue is triturated in petroleum ether. 2.3 g of product are obtained.

reactant | ethyl (6-hydroxybenzo[b]thien-3-yl)carbamate | 8.4 mmol, 2 g | OC=1C=CC2=C(SC=C2NC(OCC)=O)C1 | C11H11NO3S
reactant | benzyl bromide | 12.6 mmol, 2.16 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 16.8 mmol, 2.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Ethyl [6-(phenylmethoxy)benzo[b]thien-3-yl]carbamate | 2.3 g | C1(=CC=CC=C1)COC=1C=CC2=C(SC=C2NC(OCC)=O)C1 | C18H17NO3S
